US05663189
A mixture of 1.88 g of 5-nitro-4,7-dimethyl-1,3-benzodioxole and 0.19 g of 10% palladium on carbon in 200 mL of ethanol is placed under a 50 psi hydrogen atmosphere. The mixture is shaken for 90 minutes at room temperature. The reaction mixture is filtered through Celite to yield a brownish solution. Concentration under reduced pressure affords 1.59 g of 5-amino-4,7-dimethyl-1,3-benzodioxole.

reactant | 5-nitro-4,7-dimethyl-1,3-benzodioxole | 1.88 g | [N+](=O)([O-])C1=C(C2=C(OCO2)C(=C1)C)C | C9H9NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.19 g | [Pd] | Pd
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5-amino-4,7-dimethyl-1,3-benzodioxole | 1.59 g | NC1=C(C2=C(OCO2)C(=C1)C)C | C9H11NO2
